US06462198B1
N-(5-Methyl-[1,3,4]oxadiazol-2-yl)-2,2-diphenyl-acetamide.
The title compound, white solid, m.p. 160-161° C. and MS: m/e=293.1 (M+) was prepared in accordance with the general method of example 44a from 5-methyl[1,3,4]oxadiazol-2-ylamine and 2,2-diphenylacetic acid chloride.

reactant | 5-methyl[1,3,4]oxadiazol-2-ylamine | CC1=NN=C(O1)N | C3H5N3O
reactant | 2,2-diphenylacetic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-(5-Methyl-[1,3,4]oxadiazol-2-yl)-2,2-diphenyl-acetamide | CC1=NN=C(O1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H15N3O2
